* ==========================================================================
* @part: LM1086-ADJ
* @family: regulators
* @source: TI
* @url: https://www.ti.com/lit/zip/SNVMB32
* @origin-file: ti/LM1086/SNVMB32/LM1086-ADJ_TRANS.LIB
* @retrieved: 2026-09-24
* @licence: condition: "The model is provided solely on an "as is" basis."; notice: "(C) Copyright 2016 Texas Instruments Incorporated. All rights reserved."
* @added-by: garv.singh
* @pins: LM1086-ADJ_TRANS: INPUT ADJ OUTPUT_0 OUTPUT_1
* @notes: 1.5 A LDO, adjustable
* @patched: 9 helper subckt/model name(s) suffixed with '__LM1086ADJ' so this file can be included together with other files
* The complete origin file follows (modified, see @patched).
* ==========================================================================

* PSpice Model Editor - Version 16.2.0
*$
* LM1086-ADJ
*****************************************************************************
* (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM1086-ADJ
* Date: 20DEC2016 
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: NA
* EVM User's Guide: NA
* Datasheet: SNVS039J –JUNE 2000–REVISED APRIL 2015
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
* A. Features have been modelled
*	1. Startup & Shutdown Response 
*	2. 2.7A Peak Current Limit
*	3. Dropout Voltage vs Output Current  
*	4. Line & Load Transient Response 
*	5. VOUT vs VIN Plot
*	6. VOUT vs IOUT Plot
*
* B. Features haven't been modelled
*	1. ADJUSTMENT pin Current, Quiescent current
*	2. Ripple Regulation Response vs Output Current/Frequency 
*	3. Temperature dependent characteristics & Output Noise Voltage
*   4. This model will not support the inverting configuration.
*****************************************************************************
.SUBCKT LM1086-ADJ_TRANS INPUT ADJ OUTPUT_0 OUTPUT_1 
X_F1    VZZ N16902334 N16902368 VYY LM1086_F1__LM1086ADJ 
X_U8         INPUT OUTPUT_0 ILIM 0 my_ETABLE__LM1086ADJ
R_R9         0 OUTPUT_1  1G  
C_C3         VYY 0  100p  
X_S1    N16902539 0 INPUT N16902368 LM1086_S1__LM1086ADJ 
R_R5         VZZ VYY  {ROUT}  
E_ABM2         N16902633 0 VALUE { IF(V(IN_OK) > 0.5, 1, 0)    }
C_C6         N16902368 0  100n  
X_S2    IN_OK 0 N16902267 OUTPUT_0 LM1086_S2__LM1086ADJ 
C_C5         N16902539 0  1n  
R_R7         N16902539 N16902633  100 TC=0,0 
R_R8         0 OUTPUT_1  1G  
R_U1_R6         U1_N15543801 U1_VDO  10  
R_U1_R2         0 U1_N15555780  1G  
E_U1_ABM4         U1_N15555938 0 VALUE {
+  V(U1_N15543421)*(ABS(V(OUTPUT_0))/(ABS(V(OUTPUT_0)-V(ADJ))))    }
E_U1_ABM6         U1_N15543747 0 VALUE { IF(V(IN_OK) > 0.5, V(U1_N15543395), 0)
+     }
R_U1_R1         0 U1_N15543421  1G  
V_U1_V1         U1_N15543395 0 1.25
C_U1_C4         U1_VDO 0  1n  TC=0,0 
E_U1_E3         U1_N15543801 0 TABLE { V(ISENSE, 0) } 
+ ( (0,0.9)(0.5,1)((1,1.1)(1.25,1.2)(1.5,1.3) )
V_U1_V5         U1_N15543883 0 1.01
R_U1_R5         U1_N15543687 N16902490  1 TC=0,0 
X_U1_U7         INPUT U1_N15543883 IN_OK COMP_BASIC_GEN__LM1086ADJ PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
C_U1_C3         N16902490 0  10p  
E_U1_ABM5         U1_N15543687 0 VALUE { MIN(V(U1_N15555780),  
+ MAX(V(INPUT) - V(U1_VDO), 0))   }
C_U1_C2         U1_N15555780 0  10p  
C_U1_C1         U1_N15543421 0  {1e-6*SQRT(TTRN)}  
R_U1_R4         U1_N15555938 U1_N15555780  1 TC=0,0 
R_U1_R3         U1_N15543747 U1_N15543421  {3.333e5*SQRT(TTRN)} TC=0,0 
R_R6         N16902639 VYY  10 TC=0,0 
V_V1         N16925677 0 2.7
E_ABM1         N16902639 0 VALUE { MIN(V(VXX), (V(Vzz)+(V(ILIM)*ROUT)))    }
X_U2         0 OUTPUT_0 D_D__LM1086ADJ PARAMS:
R_R2         N16902490 VXX  {PSRR*RINP}  
C_C1         VXX N16902368  {1/(6.28*RINP*POLE)}  
C_C2         N16902490 VXX  {1/(6.28*PSRR*RINP*ZERO*1)}  
X_H1    N16902334 N16902267 ISENSE 0 LM1086_H1__LM1086ADJ 
R_R1         N16902368 VXX  {RINP}  
.PARAM  psrr=316.227u pole=1k zero=100k rinp=10e6 ttrn=1u rout=1m vref=1.25
.ENDS LM1086-ADJ_TRANS
*$
.subckt LM1086_F1__LM1086ADJ 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends LM1086_F1__LM1086ADJ
*$
.subckt LM1086_S1__LM1086ADJ 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=100 Ron=10 Voff=0.2 Von=0.8
.ends LM1086_S1__LM1086ADJ
*$
.subckt LM1086_S2__LM1086ADJ 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=100E6 Ron=1m Voff=0.2 Von=0.8
.ends LM1086_S2__LM1086ADJ
*$
.subckt LM1086_H1__LM1086ADJ 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ends LM1086_H1__LM1086ADJ
***************************** Basic Components *****************************
*$
.SUBCKT COMP_BASIC_GEN__LM1086ADJ INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN__LM1086ADJ
*$
.SUBCKT D_D__LM1086ADJ 1 2
D1 1 2 DD1
.MODEL dd1 d (Is = 1E-15 N = 0.1 TT = 10p)
.ENDS D_D__LM1086ADJ
*$
.SUBCKT RVAR__LM1086ADJ 101 102 201 202 PARAMS: RREF=1
* nodes : 101 102 : nodes between which variable resistance is placed
* 201 202 : nodes to whose voltage the resistance is proportional
* parameters : rref : reference value of the resistance
rin 201 202 1G; input resistance
r 301 0 {rref}
fcopy 0 301 vsense 1; copy output current thru Z
eout 101 106 poly(2) 201 202 301 0 0 0 0 0 1; multiply VoverZ with Vctrl
vsense 106 102 0; sense iout
.ENDS RVAR__LM1086ADJ
*$
.SUBCKT D_D1__LM1086ADJ 1 2
D1 1 2 DD1
.MODEL DD1 D (IS = 1E-15 N = 0.1 TT = 10p)
.ENDS D_D1__LM1086ADJ
*$
.SUBCKT my_ETABLE__LM1086ADJ IN+ IN- OUT+ OUT- 
E_E1 OUT+ OUT- TABLE { V(IN+, IN-) } = (0.122,0.122)(1.102,1.073)(1.29, 1.5)(1.959,1.817)
+ (2.571,2.378)(3.184,2.524)(3.551,2.598)(4.286,2.707)(7.469,2.720)
+ (8.082,2.659)(9.551,2.402)(10.898,2.183)(12.000,1.988)(13.714,1.634)
+ (16.041,1.171)(16.898,0.939)(18.122,0.707)(18.612,0.537)(18.980,0.280)
+ (19.347,0.134)(30.000,0.110)
.ENDS my_ETABLE__LM1086ADJ
*$
