* ==========================================================================
* @part: LR8
* @family: regulators
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: public domain (Holger Vogt)
* @added-by: nav
* ==========================================================================
* Voltage regulator
* Author Holger Vogt, Public Domain
* in out adj

.subckt LR8ng in out adj

* controlled resistor
Rreg in outint R = {exp(V(vcrtl)+10)}

* simple diode to prevent reverse current flow and limit the forward current
* to 20 mA, forward voltage is 0 V.
asidiode outint out ds1
.model ds1 sidiode(Roff=10Meg Ron=1 Rrev=1 Vfwd=0
+ Vrev=1000 Revepsilon=0.02 Epsilon=0.02 Ilimit=20m Revilimit=20m)

* internal 10uA current source to adj
Iadj adj out 10u
Radj adj dio 10k
Dadj dio out adiode
.model adiode D cj=2p Rs=10

* error amplifier
Rin ref refin 10k
Rfb2 refin intc 22k
Cfb2  intc vcrtl 10n
Cfb refin vcrtl 470p
Xopa adj refin vcc vee vcrtl kicad_builtin_opamp
VCC vcc 0 10
VEE vee 0 -10

* reference voltage
Vref ref 0 1.2

.ends LR8ng

* Simple generic model for a single-pole OpAmp
* Parameters are pole frequency, gain, offset, output resistance.
* The output is limited to the supply voltage.
* Author Holger Vogt, Public Domain
.subckt kicad_builtin_opamp in+ in- vcc vee out params: POLE=20 GAIN=1Meg VOFF=0 ROUT=10
* add offset voltage
  Voff in+ inoff dc {VOFF}
* gain stage with RC pole
  G10 0 int inoff in- 100u
  R1 int 0 {GAIN/100u}
  C1 int 0 {1/(6.28*(GAIN/100u)*POLE)}
* output decoupling, output resistance
  Eout 2 0 int 0 1
  Rout 2 out {ROUT}
* output limited to vee, vcc
  Elow lee 0 vee 0 1
  Ehigh lcc 0 vcc 0 1
  Dlow lee int Dlimit
  Dhigh int lcc Dlimit
  .model Dlimit D N=0.01 Cj=1n Rs=10
*
.ends